data/mechanism_extracts/JACS/10.1021_jacs.5c01506.json
{"doi": "10.1021_jacs.5c01506", "journal": "JACS", "is_review": false, "rxn_class_summary": "Photoexcited Gd(III)-catalyzed enantioselective dearomative [2π+2σ] cycloaddition of naphthalenes with bicyclo[1.1.0]butanes to give chiral tricyclic BCHs", "mechanism_family": ["photoredox_combined", "biradical", "electrocatalysis_inner_sphere"], "electrochemical_role": null, "key_intermediates": [{"name": "Gd(III)-naphthalene bidentate complex (acylpyridine-coordinated, ground state)", "smiles": null, "role": "resting_state"}, {"name": "Excited S1 singlet Gd-bound naphthalene complex (1*I)", "smiles": null, "role": "transient"}, {"name": "Excited T1 triplet Gd-bound naphthalene complex (3*I)", "smiles": null, "role": "reactive"}, {"name": "Triplet 1,4-biradical from radical addition of 3*I to BCB 2a (intermediate II)", "smiles": null, "role": "reactive"}, {"name": "Closed-shell cyclized Gd-bound dearomatized complex (IV)", "smiles": null, "role": "transient"}], "electron_flow": "Gd(III) chelates the acylpyridine directing group of the naphthalene and red-shifts its absorption; visible-light excitation gives the singlet S1 complex, which undergoes ISC to a triplet that adds across the central C–C σ-bond of the BCB to form a triplet 1,4-biradical, followed by a second ISC and radical recombination to close the cyclobutane and deliver the dearomatized product after ligand exchange with fresh naphthalene.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "3 equiv suppressed formation of 3a (trace yield), consistent with radical intermediates"}, {"name": "O2", "smiles": "O=O", "purpose": "radical_trap", "observation": "1 atm O2 reduced 3a to trace, supporting triplet/radical involvement"}, {"name": "hexa-2,4-diene", "smiles": "C/C=C/C=C/C", "purpose": "intermediate_trap", "observation": "0.5 equiv → 70% yield; 1 equiv → 52% yield; triplet quencher diminishes yield, supporting triplet naphthalene intermediate"}, {"name": "acetyl-naphthalene 10 (R=Me)", "smiles": null, "purpose": "other", "observation": "No reaction without the 2-acylpyridine bidentate DG, confirming necessity of bidentate Gd coordination"}, {"name": "benzoyl-naphthalene 11 (R=Ph)", "smiles": null, "purpose": "other", "observation": "No reaction, confirming bidentate DG required"}, {"name": "enantioenriched ligand L1 (variable ee)", "smiles": null, "purpose": "other", "observation": "Linear correlation (slope 0.962, R^2=0.9968) between ee of L1 and ee of 3a, indicating a single Gd/L1 species delivers enantioinduction (no nonlinear effect)"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_other", "UV_vis", "on/off_light_or_current", "isolation_of_intermediate", "other"], "evidence_strength": "strong", "notes": "Light on/off experiments show reaction halts in the dark, consistent with a photocatalytic (not radical-chain) regime. UV-vis shows that only the Gd(III)+L1+naphthalene+BCB combination absorbs significantly in the visible region, supporting selective excitation of the Gd-bound naphthalene complex rather than free BCB or naphthalene. Linear effect study argues against aggregated Gd species. A singlet-only pathway is disfavored because triplet quenchers (O2, TEMPO, hexa-2,4-diene) strongly suppress the reaction; the authors propose ISC to a triplet biradical followed by a second ISC before ring closure."}
